US08735384B2
A mixture of 6-bromo-3-iodo-N-(4-methoxybenzyl)quinolin-2-amine (710 mg, 1.5 mmol), morpholine (1.9 mL, 22.7 mmol), Cu(I)(14.4 mg, 0.08 mmol), cesium carbonate (986 mg, 3.0 mmol), 2-isobutyrylcyclohexanone (50.9 mg, 0.30 mmol) and DMF (10 mL) was heated to 125° C. in a microwave unit for 20 min. The mixture was concentrated in vacuo then partioned the crude product between EtOAc and water. The organic layer was washed with water and brine 3× each, dried over MgSO4 and concentrated in vacuo to give an orange colored oil. This material was purified by silica flash chromatography (0-5% MeOH/DCM) to give 6-bromo-N-(4-methoxybenzyl)-3-morpholinoquinolin-2-amine as a yellow colored oil.

reactant | 6-bromo-3-iodo-N-(4-methoxybenzyl)quinolin-2-amine | 1.5 mmol, 710 mg | BrC=1C=C2C=C(C(=NC2=CC1)NCC1=CC=C(C=C1)OC)I | C17H14BrIN2O
reactant | morpholine | 22.7 mmol, 1.9 mL | N1CCOCC1 | C4H9NO
reactant | cesium carbonate | 3.0 mmol, 986 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-isobutyrylcyclohexanone | 0.30 mmol, 50.9 mg | C(C(C)C)(=O)C1C(CCCC1)=O | C10H16O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-bromo-N-(4-methoxybenzyl)-3-morpholinoquinolin-2-amine | BrC=1C=C2C=C(C(=NC2=CC1)NCC1=CC=C(C=C1)OC)N1CCOCC1 | C21H22BrN3O2
